US05688946
0.184 g (4.39 mmol) of lithium hydroxide hydrate dissolved in 8 ml of water is added dropwise to a solution of 1.7 g (3.84 mmol) of N-[3-[1-(benzyloxy)formamido]-3-methylbutyryl]-3-(p-methoxyphenyl)-L-alanine methyl ester in 16 ml of dioxan. The solution is stirred at 0° for 1 hour, then treated with 20 ml of water and extracted twice with ether. The aqueous phase is acidified with 6N hydrochloric acid and extracted twice with ether. The combined ether extracts are washed with saturated sodium chloride solution, dried over sodium sulphate and then evaporated under reduced pressure. N-[3-[1-(Benzyloxy)formamido]-3-methylbutyryl]-3-(p-methoxyphenyl)-L-alanine is obtained as a colourless oil, MS: 429 (M+H)+.

reactant | lithium hydroxide hydrate | 4.39 mmol, 0.184 g | O.[OH-].[Li+]
reactant | N-[3-[1-(benzyloxy)formamido]-3-methylbutyryl]-3-(p-methoxyphenyl)-L-alanine methyl ester | 3.84 mmol, 1.7 g | COC([C@@H](NC(CC(C)(C)NC(=O)OCC1=CC=CC=C1)=O)CC1=CC=C(C=C1)OC)=O | C24H30N2O6
solvent | water | 8 ml | O | H2O
solvent | dioxan | 16 ml | O1CCOCC1 | C4H8O2
solvent | water | 20 ml | O | H2O
product | N-[3-[1-(Benzyloxy)formamido]-3-methylbutyryl]-3-(p-methoxyphenyl)-L-alanine | C(C1=CC=CC=C1)OC(=O)NC(CC(=O)N[C@@H](CC1=CC=C(C=C1)OC)C(=O)O)(C)C | C23H28N2O6
